US04012377
β-(Thien-2-yl) acrylonitrile (2.78 g.) was dissolved in dry methanol (60 ml.) and treated with a solution of hydroxylamine in methanol (60 ml.) (prepared by dissolving hydroxylamine hydrochloride (6 g.), in methanol (60 ml.) and neutralising with sodium methoxide in methanol). The solution was refluxed for 6 hr. and left overnight to cool. Evaporation in vacuo left a brown oil which was dissolved in chloroform and washed with water (10 ml.). The chloroform solution was evaporated to dryness leaving the crude amidoxime, 2.76 g. (80%). Recrystallisation from aqueous methanol gave β-(thien-2-yl) acrylamidoxime, m.p. 92° , λmax. (EtOH) 306 nm, (ε 20070) (Found: C, 49.7; H, 4.7; N, 16.8; S, 18.7. C7H8N2OS requires C, 50.0; H, 4.8; N, 16.7; S, 19.05%).

reactant | β-(Thien-2-yl) acrylonitrile | 2.78 g | S1C(=CC=C1)C=CC#N | C7H5NS
reactant | hydroxylamine | NO | H3NO
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 60 ml, 6 g | CO | CH4O
product | β-(thien-2-yl) acrylamidoxime | S1C(=CC=C1)C=CC(N)=NO | C7H8N2OS
